US06455528B1
Synthesis of N-(1-Methyl-1-(4-((4-(thiazol-2-yl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide
By similar reaction and treatment to that in Example 1(5) using N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide instead of N-(4-chloromethylphenylmethyl)acetamide and 1-(thiazol-2-yl)piperazine instead of phenylpiperazine, the title compound was obtained as pale-yellow crystals, m.p.=118-120° C.

reactant | N-(1-(4-chloromethylphenyl)-1-methylethyl)acetamide | ClCC1=CC=C(C=C1)C(C)(C)NC(C)=O | C12H16ClNO
reactant | 1-(thiazol-2-yl)piperazine | S1C(=NC=C1)N1CCNCC1 | C7H11N3S
product | N-(1-Methyl-1-(4-((4-(thiazol-2-yl)piperazin-1-yl)methyl)phenyl)ethyl)acetamide | CC(C)(C1=CC=C(C=C1)CN1CCN(CC1)C=1SC=CN1)NC(C)=O | C19H26N4OS
